US03952012
A suspension of 3.52 g. (0.013 mole) of 5-(p-chlorobenzoyl)-1-ethylpyrrole-2-acetonitrile in 26 ml. 1N sodium hydroxide and 50 ml. of ethanol is refluxed for six hours. The mixture is then diluted with water and cooled. A solid precipitates which is filtered off and set aside. The ethanol is evaporated from the filtrate in vacuo. The collected precipitate is added to the concentrated filtrate and the mixture is extracted with chloroform. The aqueous phase is separated, acidified with dilute hydrochloric acid, and the resulting precipitate (A) is collected by filtration and dried. The chloroform phase is evaporated and the residue refluxed with 12 ml. of 1N sodium hydroxide and 24 ml. of ethanol for 6 hours. The ethanol is evaporated in vacuo and the remaining solution is diluted with water and washed with chloroform. The aqueous solution is acidified with dilute hydrochloric acid and the precipitated solid (B) is collected and dried. The two samples of acidic material (A and B) are combined and recrystallized from aqueous isopropanol to give 5-(p-chlorobenzoyl)-1-ethylpyrrole-2-acetic acid as a white solid, m.p. 149°-153°C.

reactant | 5-(p-chlorobenzoyl)-1-ethylpyrrole-2-acetonitrile | 0.013 mole | ClC1=CC=C(C(=O)C2=CC=C(N2CC)CC#N)C=C1 | C15H13ClN2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
product | 5-(p-chlorobenzoyl)-1-ethylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=CC=C(N2CC)CC(=O)O)C=C1 | C15H14ClNO3
